US07728021B2
A mixture made up of 5 g (17.47 mmol) of N-(4-bromobenzyl)-L-valine and 5.9 g (70.24 mmol) of sodium bicarbonate in 50 mL of dry THF is left under stirring and under nitrogen atmosphere for one hour. The preceding suspension is cooled to 0° C. and to it is added over a period of 15 min. 4.2 mL (35.41 mmol) of valeroyl chloride. The mixture is then left to react at 20-25° C. for 3 h, 50 mL of water is added and the THF is distilled at low pressure. The resulting solution is taken to pH 2 with HCl 35% and the remains of THF distilled off completely. The solid obtained is filtered, washed with 50 mL of water and dried in a vacuum over to provide 5.9 g (91.2%) of N-(4-bromobenzyl)-N-valeryl-L-valine. The solid is recrystallised from a mixture of EtOH/H2O 2:1. M.p.=123° C.

reactant | N-(4-bromobenzyl)-L-valine | 17.47 mmol, 5 g | BrC1=CC=C(CN[C@@H](C(C)C)C(=O)O)C=C1 | C12H16BrNO2
reactant | sodium bicarbonate | 70.24 mmol, 5.9 g | C([O-])(O)=O.[Na+]
reactant | valeroyl chloride | 35.41 mmol, 4.2 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | water | 50 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-(4-bromobenzyl)-N-valeryl-L-valine | 5.9 g, 91.2% | BrC1=CC=C(CN([C@@H](C(C)C)C(=O)O)C(CCCC)=O)C=C1 | C17H24BrNO3
